US07772221B2
Step U (1): A solution of 2,2,2-trifluoro-N-((1S,3R)-3-hydroxy-6-methoxy-2,3-dihydro-1H-inden-1-yl)acetamide (enantiomer A, 2.65 g, 9.63 mmol) from step T (1) was cooled to −78° C. in THF. Added n-BuLi (7.7 mL, 19.3 mmol, 2.5M in Hex, Aldrich). Allowed the precipitous mixture to stir at −78° C. for 30 min. Added allyl bromide (4.6 mL, 48.2 mmol, Aldrich), warmed to rt and the reaction became homogeneous. The mixture was stirred for 18 h. Quenched with 1M HCl. Extracted with EtOAc. Washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel column chromatography to afford 1.38 g (46% yield) of N-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-yl)-2,2,2-trifluoroacetamide as white solid. LC-MS (M+Na)+=337.9; [α]D −115.43 (c=6.79 mg/mL, dioxane); Anal. Calcd for C15H16F3NO3: C, 57.14; H, 5.11; N, 4.44. Found: C, 57.19; H, 4.88; N, 4.31. 1H NMR (500 MHz, CDCl3) δ ppm 1.55 (s, 2H) 2.09 (d, J=14.04 Hz, 1H) 2.61-2.73 (m, 1H) 3.80 (s, 2H) 4.06 (dd, J=3.05, 1.53 Hz, 2H) 4.79 (dd, J=5.49, 1.83 Hz, 1H) 5.19 (dd, J=10.53, 1.37 Hz, 1H) 5.28 (dd, J=17.24, 1.68 Hz, 1H) 5.39 (s, 1H) 5.83-5.97 (m, 1H) 6.85-6.98 (m, 2H) 7.32 (d, J=8.24 Hz, 1H).

reactant | 2,2,2-trifluoro-N-((1S,3R)-3-hydroxy-6-methoxy-2,3-dihydro-1H-inden-1-yl)acetamide | FC(C(=O)N[C@H]1C[C@H](C2=CC=C(C=C12)OC)O)(F)F | C12H12F3NO3
reactant | n-BuLi | 19.3 mmol, 2.5M, 7.7 mL | [Li]CCCC
reactant | allyl bromide | 48.2 mmol, 4.6 mL | C(C=C)Br | C3H5Br
solvent | THF | C1CCOC1 | C4H8O
product | N-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-yl)-2,2,2-trifluoroacetamide | 1.38 g, 46% yield | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC(C(F)(F)F)=O | C15H16F3NO3
